US05578244
Preparation of 4-(2-(trans-(4-n-pentyl-4-silacyclohexyl))ethyl)-4'-(4-fluorophenyl)biphenyl
15.1 g (100 mmol) of n-pentyl bromide was dripped into a mixture of 2.4 g of magnesium (100 mmol) and 60 ml of tetrahydrofuran (hereafter referred to as "THF") to obtain a Grignard's reagent. This solution was then dripped into a 300 ml THF solution of 40.9 g of 4-(2-(4-chloro-4-silacyclohexyl)ethyl)-4'-(4-fluorophenyl)biphenyl. The reaction mixture thus obtained was a mixture of trans isomers and cis isomers with respect to the silacyclohexane ring. After a conventional after treatment, they were separated by means of chromatography to obtain 38.1 g (yield 93%) of the target product.

reactant | n-pentyl bromide | 100 mmol, 15.1 g | C(CCCC)Br | C5H11Br
reactant | magnesium | 100 mmol, 2.4 g | [Mg] | Mg
reactant | 4-(2-(4-chloro-4-silacyclohexyl)ethyl)-4'-(4-fluorophenyl)biphenyl | 40.9 g | Cl[SiH]1CCC(CC1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C25H26ClFSi
solvent | THF | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-(2-(trans-(4-n-pentyl-4-silacyclohexyl))ethyl)-4'-(4-fluorophenyl)biphenyl | 38.1 g, yield 93% | C(CCCC)[Si@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C30H37FSi
